US07750003B2
3-Methyl-1-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-yl]urea
A solution of phenyl N-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-yl]carbamate (200 mg, 0.39 mmol), methyl amine (1.5 mmol) and triethylamine (0.163 mL, 1.16 mmol) in NMP (3 mL) was heated at 70° C. for 2 hours. The mixture was chromatographed on silica, eluting with 0-5% methanol in ethyl acetate to give the desired material.

reactant | phenyl N-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-yl]carbamate | 0.39 mmol, 200 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C)C1=CN=C(S1)NC(OC1=CC=CC=C1)=O | C23H27N5O5S2
reactant | methyl amine | 1.5 mmol | CN | CH5N
reactant | triethylamine | 1.16 mmol, 0.163 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 3-Methyl-1-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-yl]urea | CNC(NC=1SC(=CN1)C1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(C)S(=O)(=O)C)=O | C18H26N6O4S2
